US06140351
N-(5-chloropyridin-2-yl)-2-[((4-((2-aminoimidazol-1-yl)methyl)-3-chlorothiophen-2-yl)carbonyl)amino]-3-methoxy-5-chlorobenzamide (0.053 g, 0.96 mmol) and sulfuric acid (0.10 g, 1.06 mmol) in methanol (10 mL) was added N-chlorosuccinimide (0.192 g, 1.43 mmol). After stirring at ambient temperature for 6 hours, the reaction was poured into water and extracted with ethyl acetate. The ethyl acetate extract was dried over sodium sulfate, concentrated in vacuo, and purified by flash chromatography on silica gel to give 0.33 g of N-(5-chloropyridin-2-yl)-2-[((4-((cis4,5-dimethoxy-2-iminotetrahydroimidazol-1-yl)methyl)-3-chlorothiophen-2-yl)carbonyl)amino]-3-methoxy-5-chlorobenzamide; NMR (CDCl3) 9.0 (d, 2), 8.3 (d, 1), 8.1 (d, 1), 7.7 (dd, 1), 7.5 (s, 1), 7.3 (d, 1), 7.1 (d, 1), 6.0 (brs, 1), 4.8 (m, 2), 4.6 (d, 1), 4.3 (d, 1), 3.9 (s, 3), 3.4 (s, 3), 3.3 (s, 3) ppm.

reactant | N-(5-chloropyridin-2-yl)-2-[((4-((2-aminoimidazol-1-yl)methyl)-3-chlorothiophen-2-yl)carbonyl)amino]-3-methoxy-5-chlorobenzamide | 0.96 mmol, 0.053 g | ClC=1C=CC(=NC1)NC(C1=C(C(=CC(=C1)Cl)OC)NC(=O)C=1SC=C(C1Cl)CN1C(=NC=C1)N)=O | C22H17Cl3N6O3S
reactant | sulfuric acid | 1.06 mmol, 0.10 g | S(O)(O)(=O)=O | H2O4S
reactant | N-chlorosuccinimide | 1.43 mmol, 0.192 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | water | O | H2O
reactant | methanol | 10 mL | CO | CH4O
product | N-(5-chloropyridin-2-yl)-2-[((4-((cis4,5-dimethoxy-2-iminotetrahydroimidazol-1-yl)methyl)-3-chlorothiophen-2-yl)carbonyl)amino]-3-methoxy-5-chlorobenzamide | 0.33 g | ClC=1C=CC(=NC1)NC(C1=C(C(=CC(=C1)Cl)OC)NC(=O)C=1SC=C(C1Cl)CN1C(N[C@H]([C@H]1OC)OC)=N)=O | C24H23Cl3N6O5S
